US09376454B2
Step 2. Synthesis of tert-butyl 3-((2R)-2-(3-((S)-2-amino-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate
To tert-butyl 3-((2R)-2-(3-((S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate (130 mg) in MeOH (20 mL was added 10% Pd/C (20 mg). The reaction mixture was stirred under H2 balloon for 6 hr. The catalyst was removed by filtration and MeOH removed under reduced pressure to afford the product (90 mg) which was carried on to the next step.

reactant | tert-butyl 3-((2R)-2-(3-((S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | 130 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NC=1C=C(C(=O)N[C@@H](CC=2C(=C(C(=O)OC(C)(C)C)C=CC2)OC)B2OC3(C4C(C(CC3O2)C4)(C)C)C)C=CC1CN(C)C)CNC(=O)OC(C)(C)C | C50H68BN5O11
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | tert-butyl 3-((2R)-2-(3-((S)-2-amino-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | 90 mg | N[C@H](C(=O)NC=1C=C(C(=O)N[C@@H](CC=2C(=C(C(=O)OC(C)(C)C)C=CC2)OC)B2OC3(C4C(C(CC3O2)C4)(C)C)C)C=CC1CN(C)C)CNC(=O)OC(C)(C)C | C42H62BN5O9
